US06927230B2
Dimethylcarbamic chloride was added to a mixture of 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol (200 mg, 0.673 mmol) and pyridine (0.114 ml, 1.41 mmol) in dichloromethane (5 ml). Then the solution was stirred at 45° C. for 17 hours. Water and ethyl acetate were poured into the mixture and the organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography (hexane-ethyl acetate 1:2). The desired product was washed with isopropyl ether to give 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl dimethylcarbamate. (88 mg, 35.5% yield)

reactant | Dimethylcarbamic chloride | CN(C(=O)Cl)C | C3H6ClNO
reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | 0.673 mmol, 200 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | pyridine | 1.41 mmol, 0.114 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl dimethylcarbamate | 35.5% yield | CN(C(OC1=NN(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O)C | C19H20N4O4
